US06632872B1
HA-4 (2-[2-(hydroxyamino)-2-oxoethyl]heptadecanoic acid) was prepared as follows. Hydroxylamine hydrochloride (18.07 g, 0.26 moles) was dissolved in pyridine (18.49 g, 0.26 moles) by stirring the mixture for one-half hour at 26° C. n-Hexadecyl succinic anhydride (88.14 g, 0.27 moles, available from Tokyo Kasei Kogyo Co. Ltd., Tokyo, Japan) was added to the solution followed by the addition of acetonitrile (about 50 ml). The resulting mixture was refluxed for two hours, cooled, and the solvent removed under reduced pressure using a rotary evaporator. Hydrochloric acid (10%) in water (100 ml) was added to the resulting residue and the mixture filtered to recover the suspended solids. The filtrate was dispersed in water to dissolve the pyridinium hydrochloride by-product of the reaction and the dispersion filtered and the solid retained. The process of washing with water and filtering was repeated several times, yielding 2-[2-(hydroxyamino)-2-oxoethyl]heptadecanoic acid as a solid.

reactant | Hydroxylamine hydrochloride | 0.26 moles, 18.07 g | Cl.NO
reactant | pyridine | 0.26 moles, 18.49 g | N1=CC=CC=C1 | C5H5N
reactant | n-Hexadecyl succinic anhydride | 0.27 moles, 88.14 g | C(CCCCCCCCCCCCCCC)C1C(=O)OC(C1)=O | C20H36O3
solvent | acetonitrile | about 50 ml | C(C)#N | C2H3N
product | 2-[2-(hydroxyamino)-2-oxoethyl]heptadecanoic acid | ONC(CC(C(=O)O)CCCCCCCCCCCCCCC)=O | C19H37NO4
